US06133263
3-Benzo[1,3]dioxol-5-yl-5-(3-bromo-propoxy)-5-(4-methoxy-phenyl)-4-(3,4,5-trimethoxy-benzyl)-5H-furan-2-one
To 100 mL dichloromethane was added 3-Benzo[1,3]-dioxol-5-yl-5-hydroxy-5-(4-methoxy-phenyl)-4-(3,4,5-trimethoxy-benzyl)-5H-furan-2-one 5.0 g (9.87 mmol), giving a suspension. 1-Bromo-3-propanol 3.07 g (22.15 mmol) was added, and the mixture was purged with anhydrous HCl gas until saturated. After 48 hours at room temperature, the mixture was evaporated in vacuo and the residue was suspended in ethyl ether. The ether suspension was washed exhaustively with 0.5 N NaOH, followed by water and saturated sodium chloride solution. The ether phase was dried over anhydrous magnesium sulfate, filtered, and diluted with hexane, giving a solid. Filter and dry in vacuo, giving a white solid, 4.79 g. The product was identified by 1H NMR, MS [M--H]+ =628, 629 Da.

reactant | 3-Benzo[1,3]-dioxol-5-yl-5-hydroxy-5-(4-methoxy-phenyl)-4-(3,4,5-trimethoxy-benzyl)-5H-furan-2-one | 9.87 mmol, 5.0 g | O1COC2=C1C=CC(=C2)C=2C(OC(C2CC2=CC(=C(C(=C2)OC)OC)OC)(C2=CC=C(C=C2)OC)O)=O | C28H26O9
reactant | 1-Bromo-3-propanol | 22.15 mmol, 3.07 g | BrCCCO | C3H7BrO
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | 3-Benzo[1,3]dioxol-5-yl-5-(3-bromo-propoxy)-5-(4-methoxy-phenyl)-4-(3,4,5-trimethoxy-benzyl)-5H-furan-2-one | O1COC2=C1C=CC(=C2)C=2C(OC(C2CC2=CC(=C(C(=C2)OC)OC)OC)(C2=CC=C(C=C2)OC)OCCCBr)=O | C31H31BrO9
